US05807883
Under ice cooling, 45 ml of acetic acid was added dropwise over 1 hour to 300 ml of a dichloroethane suspension of 8 g of sodium borohydride. To said mixture were added slowly a solution of 17.48 g of m-anisidine and 16 ml of cyclohexanone in 50 ml of dichloroethane, and the mixture was stirred at room temperature for 40 minutes. The reaction mixture was poured into an aqueous saturated sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed, dried and then purified by silica gel column chromatography [ethyl acetate-hexane (1:5)] to afford 29.37 g of cyclohexyl-(3-methoxyphenyl)-amine as an oil. IR (Neat) (cm-1): 3400, 2920, 2850, 1615, 1510, 1500, 1450, MS (m/z): 205 (M+), 162.

reactant | sodium borohydride | 8 g | [BH4-].[Na+]
reactant | m-anisidine | 17.48 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | cyclohexanone | 16 ml | C1(CCCCC1)=O | C6H10O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | cyclohexyl-(3-methoxyphenyl)-amine | 29.37 g | C1(CCCCC1)NC1=CC(=CC=C1)OC | C13H19NO
